Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Shortness of breath/dyspnea on exertion; Mitral Regurgitation 
 
Major Surgical or Invasive Procedure:
Mitraclip Procedure (3 clips) on ___

 
History of Present Illness:
___ y.o. with progressive SOB and DOE. Echo with severe MR with 
ruptured anterior mitral valve leaflet, s/p elective coronary 
angiogram/right heart catheterization yesterday at ___ 
___. Diuresed ___ liters over the last 24 hours from Lasix 
20mg IV x1 and Lasix 10mg/hr gtt. 3L NC, transferred
for structural heart evaluation for ___ clip.

 
Past Medical History:
MR, HFpEF, osteoarthritis, h/o basal cell cancer, ___
Hip replacements
 
Social History:
___
Family History:
Non-contributory

 
Physical Exam:
Physical Exam on Admission:
================================
 Tele:  SR with PVC's 
   VS:  99.4, 125/63, MAP 75, RR 20, 02 sat 93% on 4L NC
   WEIGHT: 65.4 kg
  Physical Exam:  
   Gen:  Awake, lying in bed, NAD
   Neuro:  Awake, A&Ox4, pleasant and cooperative. Pupils: Right
2mm and reactive, left oval shaped 3mm and sluggish. Speech
clear, comprehensible and appropriate. Tongue midline (though
initially noted to deviate to left, able to straighten to 
midline
with instruction.) Smile symmetric. Equal and strong hand grasps
and foot pushes. 
   Neck/JVP:  supple, with JVP 11 noted
   CV:  RRR, + murmur loudest over mitral
   Chest:  Crackles ___ up posteriorly
   ABD:  soft, non-tender with + BS x4
   Extr:  upper extremeties warm, ___ feet cool with +palpable
pulses, no edema
   Skin: intact 
   Access: Right radial access site C,D,I with +2 radial pulse,
CSM WNL; Right brachial venous site C,D,I without bleeding 

Physical Exam on Discharge:
===================================
Weight: Significant discrepancies in daily weights, not reliable 


VS: Temp: 98.0 PO BP: 98/50 HR: 90 RR: 18 O2 sat: 94% 2L 
Orthostatic VS: 
Lying 130/37 & 104
Sitting 106/55 & 103
Standing 120/67 & 111

Telemetry: SR ___ 100s, frequent PVCs & occasional
intermittent bigeminy 

Labs: WBC: 9.4, RBC: 2.97, Hgb: 9.3, Hct: 29.8, MCV: 100, MCH:
31.3, MCHC: 31.2, RDW: 13.1, RDWSD: 47.6, Plt Ct: 156 
BUN: 18, Creat: 0.7, Na: 140, K: 4.5, Cl: 94, HCO3: 35, Mg: 1.9 

Physical Exam: Subjectively he denies shortness of breath, chest
pain or palpitations. Endorsing posterior head/neck pain at 
night
that improves during the day, feels pain is positional and 
better
when sitting up. Denies visual disturbance or paresthesias.
Resolved after Tylenol. 
GEN: Alert, very pleasant, cooperative
NEURO: Oriented x 3, strength & sensation equal x 4 extremities,
pupils are equal (s/p cataract surgery ___ years ago), EOMI   
CV: Regular rhythm, tachycardic  
PULM: +rales bilat bases & exp wheeze, improved from yesterday.
Work of breathing appears much improved since yesterday.
ABD: Soft, Non-tender, +BS
EXT: warm, well perfused, +palpable pulses, no ___ edema
SKIN: intact, thin, ecchymosis to hands
Access: R femoral access site soft, non-tender with mild
bruising, no bleeding. 

 
Pertinent Results:
Admit labs:
=======================
___ 09:08PM BLOOD WBC-11.7* RBC-3.79* Hgb-11.8* Hct-38.4* 
MCV-101* MCH-31.1 MCHC-30.7* RDW-12.9 RDWSD-47.9* Plt ___
___ 09:08PM BLOOD Glucose-110* UreaN-36* Creat-1.0 Na-143 
K-3.7 Cl-90* HCO3-39* AnGap-14
___ 09:08PM BLOOD ALT-18 AST-23 LD(LDH)-279* AlkPhos-105 
TotBili-1.1
___ 09:08PM BLOOD Albumin-3.0* Calcium-8.5 Phos-4.7* Mg-1.9

Labs on Discharge:
=======================
___ 05:29AM BLOOD WBC-9.4 RBC-2.97* Hgb-9.3* Hct-29.8* 
MCV-100* MCH-31.3 MCHC-31.2* RDW-13.1 RDWSD-47.6* Plt ___
___ 05:29AM BLOOD UreaN-18 Creat-0.7 Na-140 K-4.5 Cl-94* 
HCO3-35* AnGap-11

Results:
================
___: TTE: IMPRESSION: Moderate bileaflet mitral valve
prolapse (anterior > posterior) with severe mitral regurgitation
(4+). Moderate pulmonary hypertension. Mild symmetric left
ventricular hypertrophy with globally preserved left ventricular
systolic function (LVEF > 55%) and regional abnormalities, as 
per
above. Mildly dilated, milldy hypokinetic right ventricle.  

pCXR: ___
IMPRESSION:  
There is cardiomegaly with left ventricular prominence.  There 
is
atelectasis at the lung bases.  There is no focal consolidation. 

There are no pneumothoraces. 

pCXR ___  
IMPRESSION:  
Mildly decreased pulmonary vascular congestion. 

___: TTE: The left atrial volume index is severely 
increased. The right atrium is moderately dilated. The 
interatrial septum is aneurysmal. A left-to-right shunt across 
the interatrial septum is seen at rest. Left ventricular wall 
thicknesses are normal. The left ventricular cavity size is 
normal. Overall left ventricular systolic function is normal 
(LVEF = 60%). The right ventricular free wall is hypertrophied. 
The right ventricular cavity is mildly dilated with severe 
global free wall hypokinesis. There is abnormal systolic septal 
motion/position consistent with right ventricular pressure 
overload. The number of aortic valve leaflets cannot be 
determined. The aortic valve leaflets are mildly thickened (?#). 
There is no aortic valve stenosis. Trace aortic regurgitation is 
seen. The mitral valve leaflets are mildly thickened. There is 
mild/moderate bileaflet mitral valve prolapse. A MitraClip 
prosthesis is present. There is mild valvular mitral stenosis 
(mean pressure gradient = 9 mmHg). An eccentric, posteriorly 
directed jet of A late systolic jet of Moderate (2+) mitral 
regurgitation is seen. [Due to acoustic shadowing, the severity 
of mitral regurgitation may be significantly UNDERestimated.] 
Due to the eccentric nature of the regurgitant jet, its severity 
may be significantly underestimated (Coanda effect). The 
tricuspid valve leaflets are mildly thickened. There is moderate 
pulmonary artery systolic hypertension. There is a 
trivial/physiologic pericardial effusion. There are no 
echocardiographic signs of tamponade. 

 Compared with the prior study (images reviewed) of ___, 
MitraClip repair of mitral valve now seen. Mitral regurgitation 
is reduced. Left-to-right shunt across interatrial septum now 
present.  

ABG: 

___ 02:44PM BLOOD Type-ART O2 Flow-2 pO2-84* pCO2-52* 
pH-7.48* calTCO2-40* Base XS-12 Intubat-NOT INTUBA Comment-O2 
DELIVER
 
Brief Hospital Course:
___ s/p ___ clip ___ complicated by CO2 retention 
following procedure requiring one day CCU stay for Bipap, now on 
O2 via NC. Ongoing diuresis for CHF. 

#1. Severe Mitral Regurgitation: s/p ___ Clip ___
- Continue ASA 81mg daily, Plavix 75mg daily
- Ongoing HF management as below 

#2. Diastolic Heart Failure:
 - Improved since yesterday following Lasix 40mg IV x 2, will
give 40mg IV Lasix today 
 - Continue Lisinopril 2.5mg (afterload reduction)
 - Continue beta-blocker for better rate control, increased
Metoprolol dose yesterday to 25mg BID given frequent
PVCs/bigeminy on telemetry, BPs soft this morning but improved,
continue to monitor 
 - Monitor fluid status: Daily weights, low sodium 2gm diet, 2L
fluid restriction, strict I&O's and diurese as indicated 
  - Continue work with ___ encouraged increased ambulation today
as tolerated  

#3. CAD: No anginal symptoms. 
 - Continue ASA 81 mg daily
 - Started Lipitor 40mg daily 

#4. Leukocytosis: +UTI, WBC improving (9.4 today)
 - Completed course of Ceftriaxone x 5 days
 
#5. Hypercarbia: Patient has pattern of appropriate compensation
for chronic respiratory acidosis (pCO2 of 80 would expect HCO3
increase ___ above nl and pH drop of 0.12 below nl which 
matches
patient lab values). Base excess also elevated. He likely has
chronic retention whether from undiagnosed COPD or sleep apnea.  

- Pulmonary consult yesterday, added Spiriva per recs 
- PFT as outpatient
- Continue to wean oxygen as tolerated  
- Continue every 6 hour nebulizers, incentive spirometer

   # Emergency contact: 
 Nephew - ___ ___
 Brother in Law - ___ ___
   
Admission weight: 144.1 lbs. (65.4kg) 
Discharge weight: 148.81 lbs. (67.5kg)
****Significant discrepancies in daily weights during admission, 
not reliable****

Transitional: 
1. Pulmonary follow up, PFTs outpatient 
2. Home diuretic dose should be determined once patient is 
euvolemic 

New Medications: 
  + Aspirin 81mg daily  
  + Plavix 75mg daily 
  + Metoprolol Tartrate 25mg BID, if BP tolerates well should 
change to XL once daily prior to discharge home   
  + Low dose Lisinopril 2.5mg daily, BPs soft 
  + Atorvastatin 40mg daily for CAD 
  + Nebs if needed 
  + Spiriva per Pulmonary recommendations 
  + Lasix (? taking 20mg PO daily prior to admission) 

 
Medications on Admission:
?Lasix 20mg PO daily prior to admission 
 
Discharge Medications:
1.  Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN desat  
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 40 mg PO QPM  
4.  Clopidogrel 75 mg PO DAILY  
5.  Ipratropium Bromide Neb 1 NEB IH Q6H  
6.  Lisinopril 2.5 mg PO DAILY  
7.  Metoprolol Tartrate 25 mg PO BID  
8.  Tiotropium Bromide 1 CAP IH DAILY  
9.  Furosemide 20 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Mitral Regurgitation
Diastolic Heart Failure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You presented to ___ with increasing shortness of 
breath due to congestive heart failure related to your Mitral 
Valve Regurgitation (leaky valve). You were treated with IV 
diuretics and sent to ___ for a procedure to repair your 
Mitral Valve and improve the mitral regurgitation. Your 
___ procedure was done on ___.

Activity instructions and care of your right groin incision was 
provided with discharge instructions.

You also had decreased oxygen levels with shortness of breath 
concerning for possible underlying lung disease. You were 
treated with nebulizers to help open your airways to make 
breathing easier. You were seen by the Pulmonary team and they 
recommended starting an inhaler, Spiriva, as well. You should 
follow up with a pulmonary doctor following discharge from the 
hospital for further evaluation of this. 

You were not taking any medications prior to this 
hospitalization aside from your Lasix. We have started you on 
some medications that are very important to continue:
1. Aspirin 81mg daily, you should take this for life 
2. Plavix 75mg daily, this prevents clots from forming in and 
around your heart valve and you should not stop taking this 
unless specifically told by a cardiologist
3. Lisinopril 2.5mg daily, this helps with blood pressure as 
well as decreases the amount of resistance your heart has to 
pump against in order to pump blood through your body 
4. Furosemide should be continued, but your home dose should be 
determined by your rehab center providers based on your progress 

5. Metoprolol, this medication works to slow your heart rate and 
regulate the rhythm, it can also decrease blood pressure, your 
dose should be determined by your providers at the rehab center 
based on your heart rate and blood pressure during your stay  
6. Spiriva inhaler once daily as recommended by Pulmonary team   

7. Atorvastatin 40mg daily, this reduces cholesterol and helps 
decrease the risk of future heart attack 

It is very important that you follow with your Primary Care 
Doctor and Cardiologist after this admission. You will also have 
a follow up visit with the Structural Heart Team in 1 month to 
have a follow up Echo.

 
Followup Instructions:
___